US05486533
Preparation of 1-(3-butenyl)-4-(1,1,-dimethylethyl)benzene (Compound I-2)
Compound I-2 can also be prepared by reacting 1-bromomethyl-4-(1,1-dimethylethyl)benzene with the Grignard reagent prepared from from 3-bromo-1-propene.

reactant | 1-bromomethyl-4-(1,1-dimethylethyl)benzene | BrCC1=CC=C(C=C1)C(C)(C)C | C11H15Br
reactant | 3-bromo-1-propene | BrCC=C | C3H5Br
product | 1-(3-butenyl)-4-(1,1,-dimethylethyl)benzene | C(CC=C)C1=CC=C(C=C1)C(C)(C)C | C14H20
